US07700625B2
0.69 ml of n-Butyl lithium (2.5M solution in hexane) was added dropwise to a stirred solution of 5-bromo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (429 mg; 1.44 mmol) in anhydrous THF (10 ml) at −78° C. under an atmosphere of nitrogen. The reaction was stirred for 50 minutes then 1-methyl-4-piperidone (212 μl; 1.2 equiv.) was added and stirred at −78° C. for a further 60 minutes then warmed to room temperature. The reaction was quenched with saturated ammonium chloride solution then extracted with EtOAc. The EtOAc layer was washed with saturated NaHCO3, brine, dried (MgSO4) and evaporated. Purification by flash column chromatography on SiO2, gradient elution from 0% to 10% 2M methanolic ammonia/DCM gave 111 mg of 5-(4-hydroxy-1-methyl-piperidin-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester as a colourless oil.

reactant | n-Butyl lithium | 2.5M, 0.69 ml | C(CCC)[Li]
reactant | 5-bromo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 1.44 mmol, 429 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)Br | C13H16BrNO2
reactant | 1-methyl-4-piperidone | 212 μl, 1.2 equiv. | CN1CCC(CC1)=O | C6H11NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-(4-hydroxy-1-methyl-piperidin-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 111 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C1(CCN(CC1)C)O | C19H28N2O3
